US07442791B2
A mixture of 0.42 g (2.0 mmol) of trans-4-methylaminomethyl-cyclohexanecarboxylic acid•HCl, 1.85 mL (1.1 mmol) of Huenig's base and 0.57 g (2.4 mmol) of 2,5-dibromo-pyrimidine [Brown and Arantz, J. Chem. Soc. C Issue 10, 1889-1891 (1971)] in 2 mL of DMA was placed in the microwave and heated to 120° C. for 1 h. The solvent was evaporated, partitioned between Et2O (×3)/aqueous 10% KH2PO4, dried over Na2SO4 and evaporated to yield 0.604 g (92%) of trans-4-{[(5-bromo-pyrimidin-2-yl)-methyl-amino]-methyl}-cyclohexanecarboxylic acid, MS: 326 (M−H−, 1Br), MP: 172-174° C.

reactant | trans-4-methylaminomethyl-cyclohexanecarboxylic acid•HCl | 2.0 mmol, 0.42 g | CNC[C@@H]1CC[C@H](CC1)C(=O)O.Cl
reactant | Huenig's base | 1.1 mmol, 1.85 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2,5-dibromo-pyrimidine | 2.4 mmol, 0.57 g | BrC1=NC=C(C=N1)Br | C4H2Br2N2
solvent | DMA | 2 mL | CC(=O)N(C)C | C4H9NO
product | trans-4-{[(5-bromo-pyrimidin-2-yl)-methyl-amino]-methyl}-cyclohexanecarboxylic acid | 0.604 g, 92% | BrC=1C=NC(=NC1)N(C)C[C@@H]1CC[C@H](CC1)C(=O)O | C13H18BrN3O2
